US04178377
EXAMPLE 3: 2-(4-hydroxy-4-piperidyl-1-phenethyl-4-piperidyl)propionic acid ethyl ester [process variant (a)]
A solution of 12.0 g of phenethyl bromide in 50 cc of dimethyl formamide is added dropwise at a temperature of 60°, with stirring, to a suspension of 18.9 g of crude 2-(4-hydroxy-4-piperidyl)propionic acid ethyl ester and 11.5 g of potassium carbonate in 150 cc of dimethyl formamide. The reaction mixture is stirred at 60° for a further 11/2 hours, is then poured in a 10% potassium carbonate solution containing ice and extraction is effected with ether. The title compound, obtained after drying the ether extracts over magnesium sulphate and concentrating by evaporation, is dissolved in acetone, the calculated amount of maleic acid is added, and the resulting crude hydrogen maleate is repeatedly recrystallized from acetone. The hydrogen maleate form of the title compound has a M.P. of 138°-139°.

reactant | phenethyl bromide | 12.0 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | 2-(4-hydroxy-4-piperidyl)propionic acid ethyl ester | 18.9 g | C(C)OC(C(C)C1(CCNCC1)O)=O | C10H19NO3
reactant | potassium carbonate | 11.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 50 cc | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 150 cc | CN(C=O)C | C3H7NO
product | 2-(4-hydroxy-4-piperidyl-1-phenethyl-4-piperidyl)propionic acid ethyl ester | C(C)OC(C(C)C1CC(N(CC1)CCC1=CC=CC=C1)C1(CCNCC1)O)=O | C23H36N2O3
